US04202896
A mixture of 10.45 g (0.052 mole) of 1-cinnamylpiperazine, 29.2 g (0.104 mole) of bis(p-fluorophenyl)methyl-2-chloroethyl ether, 12.5 g (0.09 mole) of potassium carbonate, 2 g (0.012 mole) of potassium iodide and 250 ml of methyl isobutyl ketone was refluxed for 24 hours. The precipitate was filtered off and the filtrate was concentrated by evaporation of the solvent. Water and diethyl ether were added to the residue, the ethereal phase was separated off and dried over sodium sulphate. Then an ethereal maleic acid solution was added until the reaction mixture was acidic. The resulting precipitate was filtered off and crystallized from a mixture of isopropyl alcohol and diethyl ether. 1-{2-[Bis(p-fluorophenyl)methoxy]ethyl}-4-(3-phenylprop-2-enyl)piperazine maleate (1:2) was obtained. It melted at 192°-194° C. The hydrochloride (1:2) melts at 211.5°-212° C.

reactant | 1-cinnamylpiperazine | 0.052 mole, 10.45 g | C(C=CC1=CC=CC=C1)N1CCNCC1 | C13H18N2
reactant | bis(p-fluorophenyl)methyl-2-chloroethyl ether | 0.104 mole, 29.2 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)C(COCC(C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)Cl)Cl | C30H24Cl2F4O
reactant | potassium carbonate | 0.09 mole, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.012 mole, 2 g | [I-].[K+]
reactant | methyl isobutyl ketone | 250 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-{2-[Bis(p-fluorophenyl)methoxy]ethyl}-4-(3-phenylprop-2-enyl)piperazine maleate | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CC=CC1=CC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C28H30F2N2O.C4H4O4/c29-26-12-8-24(9-13-26)28(25-10-14-27(30)15-11-25)33-22-21-32-19-17-31(18-20-32)16-4-7-23-5-2-1-3-6-23;5-3(6)1-2-4(7)8/h1-15,28H,16-22H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
